US07504433B2
3-{2-Methyl-4-[5-(4-trifluoromethyl-phenyl)-thiophen-2-ylmethoxy]-phenyl}-propionic acid methyl ester
To a solution of 2-Chloromethyl-5-(4-trifluoromethyl-phenyl)-thiophene (0.210 g, 0.760 mmole) and 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester (0.147 g, 0.760 mmole) in acetonitrile (5 mL), is added cesium carbonate (0.248 mL, 0.760 mmole) in one portion. The reaction is heated at 50° C. overnight, then concentrated. The residue is loaded to a silica gel column, eluted with ethyl acetate in hexane (0-15%) and concentrated to provide the titled compound as a white solid.

reactant | 2-Chloromethyl-5-(4-trifluoromethyl-phenyl)-thiophene | 0.760 mmole, 0.210 g | ClCC=1SC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C12H8ClF3S
reactant | 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 0.760 mmole, 0.147 g | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
reactant | cesium carbonate | 0.760 mmole, 0.248 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-{2-Methyl-4-[5-(4-trifluoromethyl-phenyl)-thiophen-2-ylmethoxy]-phenyl}-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OCC=1SC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C23H21F3O3S
